US04237054
A solution of methyl 3-methyl-4-nitrobutanoate (24.55 g) in methanol (10 ml) is added dropwise to a solution of sodium methoxide (6.37 g) in methanol (250 ml) at room temperature under nitrogen. The resulting mixture is stirred for one hour, added to a mixture of 20% titanous chloride (170 ml), and pH 7 buffer (potassium phosphate monobasic--sodium hydroxide buffer) solution (340 ml) and stirred for 30 minutes. The mixture is then treated with ether (1 l). The organic phase is separated, dried (Na2SO4) and evaporated in vacuo to give the crude product. The crude material is purified by column chromatography on silica gel (300 g, 2% ethyl acetate in hexane) to give methyl 3-methyl-4-oxo-butanoate as a colorless liquid. This material is used directly in the next step.

reactant | methyl 3-methyl-4-nitrobutanoate | 24.55 g | CC(CC(=O)OC)C[N+](=O)[O-] | C6H11NO4
reactant | sodium methoxide | 6.37 g | C[O-].[Na+]
reactant | potassium phosphate monobasic | OP(=O)(O)[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
catalyst | titanous chloride | 170 ml | [Cl-].[Cl-].[Ti+2]
solvent | ether | 1 l | CCOCC | C4H10O
product | methyl 3-methyl-4-oxo-butanoate | CC(CC(=O)OC)C=O | C6H10O3
